US06803476B2
265.2 mL (1.95 mol, 525.353 g) bromopentafluorobenzene, 52.11 g (2.144 mol) magnesium powder and 216 mL (0.975 mol, 203.025 g) tetraethoxysilane are mixed together at room temperature and diethylether is added dropwise to the vigorously stirred solution until an exothermic reaction is observed (˜240 mL). The solution is stirred for 30 minutes after which additional 90 mL of Et2O is carefully added. After stirring at 35° C. for 16 h the mixture is cooled to room temperature and diethylether evaporated. An excess of n-heptane (˜600 mL) is added to precipitate the magnesium salts. Solution is filtrated and evaporated to dryness. The residue is fractionally distilled under reduced pressure to yield di(pentafluorophenyl)diethoxysilane.

reactant | bromopentafluorobenzene | 1.95 mol, 265.2 mL, 525.353 g | BrC1=C(C(=C(C(=C1F)F)F)F)F | C6BrF5
reactant | magnesium | 2.144 mol, 52.11 g | [Mg] | Mg
reactant | tetraethoxysilane | 0.975 mol, 216 mL, 203.025 g | C(C)O[Si](OCC)(OCC)OCC | C8H20O4Si
solvent | Et2O | 90 mL | CCOCC | C4H10O
solvent | diethylether | C(C)OCC | C4H10O
product | di(pentafluorophenyl)diethoxysilane | FC1=C(C(=C(C(=C1[Si](OCC)(OCC)C1=C(C(=C(C(=C1F)F)F)F)F)F)F)F)F | C16H10F10O2Si
